US08426420B2
4-[2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperazine-1-carboxylic acid cyclobutyl ester
To a solution of 100 mg ({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetic acid in 2 ml DMF were added 0.15 ml DIPEA, 81 mg HATU and 0.03 mg 1-cyclobutoxycarbonylpiperazine. After stirring for 1 h it was diluted with dichloromethane and extracted with aqueous LiCl (4% w/w), aqueous NaHCO3 and 0.1 M HCl. The crude product obtained after evaporation of the solvent was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give the title compound.

reactant | ({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetic acid | 100 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)NCC(=O)O)=O | C23H27N5O6
reactant | DIPEA | 0.15 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 81 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-cyclobutoxycarbonylpiperazine | 0.03 mg | C1(CCC1)OC(=O)N1CCNCC1 | C9H16N2O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperazine-1-carboxylic acid cyclobutyl ester | C1(CCC1)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C32H41N7O7
